US06262045B1
1-[2-(5-Methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-1-yl)-1-oxoethyl]pyrrolidine
The preparation is carried out as in Example 3.2, from 1 g (3 mmol) of 5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid and from excess pyrrolidine. The product is recrystallized from propan-2-ol. 0.5 g (1.3 mmol) of solid is obtained.

reactant | 5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 3 mmol, 1 g | CN1C2=C(C=3C=CC=CC13)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)O | C19H15N3O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-[2-(5-Methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-1-yl)-1-oxoethyl]pyrrolidine | 1.3 mmol, 0.5 g | CN1C2=C(C=3C=CC=CC13)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)N2CCCC2 | C23H22N4O2
